US07977352B2
5.2 4-[5-(2-Oxo-1,2-dihydro-pyridin-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino]-N-pyridin-3-ylmethyl-benzamide
4-[5-(2-Methoxy-pyridin-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino]-N-pyridin-3-ylmethyl-benzamide (46 mg, 51 μmol) is treated in a sealed tube with pyridine hydrochloride (153 mg, 1.32 mmol) and one drop of water at 150° C. for two hours. The reaction mixture is evaporated and the residue purified by flash chromatography (silica gel, dichloromethane/7N NH3 in methanol 96:4 then 85:15) affording the title compound (14 mg) as a solid.

reactant | 4-[5-(2-Methoxy-pyridin-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino]-N-pyridin-3-ylmethyl-benzamide | 51 μmol, 46 mg | COC1=NC=CC(=C1)C1=CC=C(C=2N1N=CN2)NC2=CC=C(C(=O)NCC=1C=NC=CC1)C=C2 | C25H21N7O2
reactant | pyridine hydrochloride | 1.32 mmol, 153 mg | Cl.N1=CC=CC=C1
catalyst | water | one drop | O | H2O
product | 4-[5-(2-Oxo-1,2-dihydro-pyridin-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino]-N-pyridin-3-ylmethyl-benzamide | 14 mg | O=C1NC=CC(=C1)C1=CC=C(C=2N1N=CN2)NC2=CC=C(C(=O)NCC=1C=NC=CC1)C=C2 | C24H19N7O2
